### ISSUE TITLE
Type incorrect proof from rw tactic

### ISSUE THREAD

**Issue by kmill** [leanprover/lean4#268]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

A rewrite appears to prematurely close the goal and create a type-incorrect proof.

### Steps to Reproduce

```lean
class Zero (α : Type u) where
    zero : α
export Zero (zero)

instance [Zero α] : OfNat α (natLit! 0) where
    ofNat := zero

class AddGroup (α : Type u) extends Add α, Zero α, Neg α where
    addAssoc : {a b c : α} → a + b + c = a + (b + c)
    zeroAdd : {a : α} → 0 + a = a
    addZero : {a : α} → a + 0 = a
    negAdd : {a : α} → -a + a = 0

open AddGroup

theorem negZero [AddGroup α] : -(0 : α) = 0 := by
    rw [←addZero (a := -(0 : α)), negAdd]

theorem subZero [AddGroup α] {a : α} : a + -(0 : α) = a := by
    rw ←addZero (a := a)
    rw addAssoc
    rw negZero
```

**Expected behavior:** After `rw negZero`, the context's goal should be `a + (0 + 0) = a + 0`

**Actual behavior:** The tactic closes the goal, but then the following error is reported for `subZero`: 
```
rw_error.lean:19:8: error: application type mismatch
  Eq.mpr (Eq.ndrec (Eq.refl (a + (0 + -0) = a + 0)) negZero) rfl
argument has type
  a + (0 + 0) = a + (0 + 0)
but function has type
  a + (0 + 0) = a + 0 → a + (0 + -0) = a + 0
```

### Versions

Lean (version 4.0.0-m1, commit 34cf4bc3ffc3, Release)

Lean (version 4.0.0-nightly-2021-01-15, commit 6a39c65bd28e, Release)

Lean (version 4.0.0, commit d7fe05b29d52, Release)
